US07566735B2
N-methyl-N-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}-1-pyrrolidinecarboxamide
Under an inert atmosphere (Ar), NaH (60% in mineral oil, 3.8 mg; 95 μmol) was added in one portion to a stirring solution of N-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}-1-pyrrolidinecarboxamide (17.7 mg; 44 μmol) in anhydrous DMF (1.5 mL). After stirring at room temperature for 1 hour, MeI (20 μL; 0.32 mmol) was added in one portion, and the reaction stirred at this temperature for 2 hours 10 minutes. The reaction was quenched with methanolic ammonia (1M, 1 mL), concentrated in vacuo and purified by column chromatography, giving the desired material as a yellow oil (15.4 mg; 84%).

reactant | NaH | 95 μmol, 3.8 mg | [H-].[Na+]
reactant | N-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}-1-pyrrolidinecarboxamide | 44 μmol, 17.7 mg | FC(C1=NN(C=2CCCCC12)C1=CC=C(C=C1)NC(=O)N1CCCC1)(F)F | C19H21F3N4O
reactant | MeI | 0.32 mmol, 20 μL | CI | CH3I
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | N-methyl-N-{4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]phenyl}-1-pyrrolidinecarboxamide | 15.4 mg, 84% | CN(C(=O)N1CCCC1)C1=CC=C(C=C1)N1N=C(C=2CCCCC12)C(F)(F)F | C20H23F3N4O
